US07858632B2
To a solution of 1-(2-Benzyloxy-4-fluoro-5-methoxy-phenyl)-ethanone (4.25 g, 15.5 mmol) in 3 mL DMF was added 1-benzyl-piperazine (5.4 mo, 30.9 mmol) and potassium carbonate (4.28 g, 30.9 mmol). The reaction mixdture was heated under nitrogen to 130-140° C. for 18 hours. The reaction mixture was cooled to room temperature, poured into ice water, and extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered, and evaporated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (hexanes: ethyl acetate 8.5:1.5) to yield 4.5 g (73% ) of 1-[4-(4-Benzyl-piperazin-1-yl)-2-hydroxy-5-methoxy-phenyl]-ethanone as a solid. MP=90-92° C.

reactant | 1-(2-Benzyloxy-4-fluoro-5-methoxy-phenyl)-ethanone | 15.5 mmol, 4.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)F)OC)C(C)=O | C16H15FO3
reactant | 1-benzyl-piperazine | 30.9 mmol | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 30.9 mmol, 4.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Benzyl-piperazin-1-yl)-2-hydroxy-5-methoxy-phenyl]-ethanone | 4.5 g, 73% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(C=C1OC)C(C)=O)O | C20H24N2O3
